US03982931
Preparation of 2,3,5-trichloro-N,N-di-sec.butyl-benzamide
Into a 250 ml flask, provided with a reflux condenser, were introduced 10 g of 2,3,5-trichlorobenzoyl chloride in 20 ml of anhydrous C6H6, a solution of 5.3 g of di-sec.butylamine in 7 ml of anhydrous C6H6 and 5 g of triethylamine. This mass was then heated to reflux temperature for about 1 hour. Thereupon it was left to cool down to room temperature and the solvent was removed under reduced pressure in a rotating evaporator. The mass was then washed with acidulated H2O, with H2O and was then extracted with ethyl ether. The etheric extract was then dried on anhydrous Na2SO4, filtered and the solvent removed under reduced pressure. 12.6 g of yellowing crystals of 2,3,5-trichloro-N,N-di-sec.butyl-benzamide were obtained.

reactant | 2,3,5-trichlorobenzoyl chloride | 10 g | ClC1=C(C(=O)Cl)C=C(C=C1Cl)Cl | C7H2Cl4O
reactant | di-sec.butylamine | 5.3 g | C(C)(CC)NC(C)CC | C8H19N
solvent | C6H6 | 20 ml | C1=CC=CC=C1 | C6H6
solvent | C6H6 | 7 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
product | 2,3,5-trichloro-N,N-di-sec.butyl-benzamide | ClC1=C(C(=O)N(C(C)CC)C(C)CC)C=C(C=C1Cl)Cl | C15H20Cl3NO
